US05985871
2-(2-Hydroxy-4,5-methylenedioxybenzamido)ethanol (8.9 g; 40 mmol) was suspended in 320 mL dry chloroform, to which trimethylorthoformate (32 mL, 290 mmol) and formic acid (7.8 mL, 170 mmol) were added. The suspension was heated to reflux for 2.5 hours and diluted with ethyl acetate. The diluted solution was washed with a sodium bicarbonate buffer (pH 10), followed by a saturated sodium chloride solution and finally, dried over anhydrous sodium sulfate. The solution was evaporated onto silica gel and purified by multiple flash chromatographic steps on silica gel (ethyl acetate/hexane=1:1 or diethyl ether/hexane=9:1). Subsequent isolation of intermediate byproducts and treatment with formic acid yielded a total of 4.78 g (51%; after recrystallization from methylene chloride/diethyl ether) of (R,S)-7,8-dihydro-5aH, 10H-1,3-dioxolo[4,5-g]oxazolo[2,3-b][1,3]benzoxazin-10-one with mp=152-153° C. IR (thin film): 2899, 1667, 1460, 1420, 1260, 1117, 1034, and 926 cm-1. 1HNMR (500 MHz; CDCl3): δ 7.27 (1H, s), 6.53 (1H, s), 6.18 (1H, s), 6.015 (2H, AB quartet), 4.30 (1H, td, J=7 & 1.2 Hz), 4.22-4.28 (1H, m), 4.20 (1H, ddd, J=10, 7 & 1.4 Hz), and 3.55-3.60 ppm (1H, m.

reactant | 2-(2-Hydroxy-4,5-methylenedioxybenzamido)ethanol | 40 mmol, 8.9 g | OC1=C(C(=O)NCCO)C=C2C(=C1)OCO2 | C10H11NO5
reactant | trimethylorthoformate | 290 mmol, 32 mL | COC(OC)OC | C4H10O3
reactant | formic acid | 170 mmol, 7.8 mL | C(=O)O | CH2O2
solvent | chloroform | 320 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10H-1,3-dioxolo[4,5-g]oxazolo[2,3-b][1,3]benzoxazin-10-one | O1COC2=CC3=C(C(N4C(O3)OC=C4)=O)C=C21 | C11H7NO5
